US07763639B2
4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-ETHYLPIPERIDINE
Preparation according to Example 3: 4-[2-chloro-3-(methylsulfonyl)phenyl]-1-ethyl-1,2,3,6-tetrahydropyridine (0.6 g, 2.0 mmol), methanol (25 ml), platinum oxide (0.15 g). Yield: 0.35 g (58%). The amine was converted to hydrochlorid acid salt and recrystallized from ethanol/diisopropyl ether: M.p. 264-265° C. MS m/z (relative intensity, 70 eV) 301 (M+, 6), 301 (13), 300 (11), 288 (35) 286 (bp).

reactant | 4-[2-chloro-3-(methylsulfonyl)phenyl]-1-ethyl-1,2,3,6-tetrahydropyridine | 2.0 mmol, 0.6 g | ClC1=C(C=CC=C1S(=O)(=O)C)C=1CCN(CC1)CC | C14H18ClNO2S
reactant | hydrochlorid | Cl | ClH
catalyst | platinum oxide | 0.15 g | [Pt]=O
solvent | methanol | 25 ml | CO | CH4O
product | 4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-ETHYLPIPERIDINE | ClC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)CC | C14H20ClNO2S
